US05541324
A solution of 2-chloro-3-nitrobenzoic acid (5.00 g, 24.8 mmol), ammonium hydroxide (25.0 ml) and copper (1) chloride (50 mg) is heated hi a bomb at 125° for 20 hr and is then allowed to cool to 20°-25°. The solid residue is dissolved in water and the solution acidified with 3 N hydrochloric acid. The resultant mixture is filtered, washed, and dried to provide the 2-amino-3-nitrobenzoic acid, mp 201°-203; IR (mineral oil) 3478, 3345, 2954, 2925, 2855, 1692, 1677, 1571, 1559, 1520, 1512, 1442, 1271, 1259, 1130 cm-1 ; NMR (300 MHz, CDCl3 -MeOD) 8.38, 8.30, 6.66; MS (EI) m/e 182, 164.

reactant | 2-chloro-3-nitrobenzoic acid | 24.8 mmol, 5.00 g | ClC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4ClNO4
reactant | ammonium hydroxide | 25.0 ml | [OH-].[NH4+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | water | O | H2O
catalyst | copper (1) chloride | 50 mg | [Cu]Cl
product | 2-amino-3-nitrobenzoic acid | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
